### PR TITLE
[Merged by Bors] - feat(Manifold/PartitionOfUnity): existence of global C^n smooth section for nontrivial bundles

### PR DESCRIPTION
**Pull request by michaellee94**
Add existence of global C^n smooth section for nontrivial bundles

---

- [x] depends on: #26671
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by michaellee94** [comment]
This PR continues https://github.com/leanprover-community/mathlib4/pull/24966

cc @PatrickMassot @grunweg

**Comment by grunweg** [comment]
@michaellee94 Thanks for the quick response. You incorporated all review suggestions well - so we could just merge the PR.
However, I just gave it another look and, having spent a substantial amount of time proving lemmas like "a finite sum of C^n sections is C^n" in the past weeks, realised the proofs could be generalised a bit more.*

More precisely, your workhorse lemma `contMDiff_totalSpace_weighted_sum_of_local_sections` follows from two lemmas
- "any locally finite sum of C^n sections is C^n" and
- "if s is C^n on U and psi is smooth with tsupport contained in U, then f s is C^n"

Mathlib knows an easier version of the former (for finite sums, [ContMDiff.sum_section](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Manifold/VectorBundle/SmoothSection.html#ContMDiff.sum_section) and friends). I have proven the latter in #26671; you could certainly copy-paste this code into this PR for now.
Would you like to try making this generalisation?

I appreciate that waiting for review for months, and then being told to generalise things again can be frustrating. If you prefer, we can also merge this PR and I'll tweak the proof in a follow-up PR.

\* Truth be told: I haven't thought much about whether the first statement is ever *used* besides in partitions of unity. I did need the second one, somewhere in #26221. @PatrickMassot What do you think?

**Comment by michaellee94** [comment]
Thanks for taking another look, @grunweg. I'm inclined to request a review of this PR as is, and then if a useful lemma is shown in https://github.com/leanprover-community/mathlib4/pull/26671, to further simplify `contMDiff_totalSpace_weighted_sum_of_local_sections` as part of that PR. Does that course of action make sense? Of course, if https://github.com/leanprover-community/mathlib4/pull/26671 is merged first, I'll take a crack at it.

Edit: Actually, why not, I'll just mark that PR as a dependency of this one and give it a try.

**Comment by grunweg** [comment]
Did you have any luck with the generalisation, @michaellee94? No problem if not, but since the end of the week is approaching, it would be helpful to know the current status.

**Comment by grunweg** [comment]
@michaellee94 How are things going? I just gave this a go, #27349 is how I'd prove that a locally finite sum of C^n sections is C^n. (Of course, I'm happy to compare with your solution - there may surely be ways to optimise mine.)

**Comment by grunweg** [comment]
Would you like to try and golf this PR accordingly --- or do you prefer merging this PR first, and I'll create a follow-up to golf the proof? Either way is fine with me.

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 1]
```diff
@@ -569,33 +570,139 @@ theorem exists_isSubordinate_chartAt_source :
...
+    {E : Type uE} [NormedAddCommGroup E] [NormedSpace ℝ E]
+    {H : Type uH} [TopologicalSpace H] (I : ModelWithCorners ℝ E H) {M : Type uM}
+      [TopologicalSpace M] [ChartedSpace H M]
+    {F_fiber : Type*} [NormedAddCommGroup F_fiber] [NormedSpace ℝ F_fiber]
+    (V : M → Type*) [∀ x, NormedAddCommGroup (V x)] [∀ x, Module ℝ (V x)]
+    [TopologicalSpace (TotalSpace F_fiber V)] [FiberBundle F_fiber V] [VectorBundle ℝ F_fiber V]
+    {n : ℕ∞} {ι : Type*} (ρ : SmoothPartitionOfUnity ι I M univ) (s_loc : ι → ((x : M) → V x))
+    (U : ι → Set M) (hU_isOpen : ∀ i, IsOpen (U i)) (hρ_subord : ρ.IsSubordinate U)
+    (h_smooth_s_loc : ∀ i, ContMDiffOn I (I.prod 𝓘(ℝ, F_fiber)) n
+      (fun x ↦ (TotalSpace.mk x (s_loc i x) : TotalSpace F_fiber V)) (U i)) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean]:
```suggestion
      (fun x ↦ TotalSpace.mk' F_fiber x (s_loc i x)) (U i)) :
```

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 2]
```diff
@@ -569,33 +570,139 @@ theorem exists_isSubordinate_chartAt_source :
...
+    ContMDiff I (I.prod 𝓘(ℝ, F_fiber)) n
+      (fun x ↦ (TotalSpace.mk x (∑ᶠ (j : ι), (ρ j x) • (s_loc j x)) : TotalSpace F_fiber V)) := by
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean]:
```suggestion
      (fun x ↦ TotalSpace.mk' F_fiber x (∑ᶠ (j : ι), (ρ j x) • (s_loc j x))) := by
```

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 3]
```diff
@@ -569,33 +570,139 @@ theorem exists_isSubordinate_chartAt_source :
...
+-/
+theorem exists_contMDiffOn_section_forall_mem_convex_of_local
+    {F_fiber : Type*} [NormedAddCommGroup F_fiber] [NormedSpace ℝ F_fiber]
+    (V : M → Type*) [∀ x, NormedAddCommGroup (V x)] [∀ x, Module ℝ (V x)]
+    [TopologicalSpace (TotalSpace F_fiber V)] [FiberBundle F_fiber V] [VectorBundle ℝ F_fiber V]
+    (t : ∀ x, Set (V x)) (ht_conv : ∀ x, Convex ℝ (t x))
+    (Hloc :
+      ∀ x₀ : M, ∃ U_x₀ ∈ 𝓝 x₀, ∃ (s_loc : (x : M) → V x),
+        (ContMDiffOn I (I.prod 𝓘(ℝ, F_fiber)) n
+          (fun x ↦ (⟨x, s_loc x⟩ : TotalSpace F_fiber V)) U_x₀) ∧
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean]:
```suggestion
          (fun x ↦ TotalSpace.mk' F_fiber x (s_loc x)) U_x₀) ∧
```

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 4]
```diff
@@ -569,33 +570,139 @@ theorem exists_isSubordinate_chartAt_source :
...
+        (∀ y ∈ U_x₀, s_loc y ∈ t y)) :
+    ∃ s : Cₛ^n⟮I; F_fiber, V⟯, ∀ x : M, s x ∈ t x := by
+  choose W h_nhds s_loc s_smooth h_mem_t using Hloc
+  -- Construct an open cover from the interiors of the given neighborhoods.
+  let U (x : M) : Set M := interior (W x)
+  have U_op : ∀ x, IsOpen (U x) := fun x ↦ isOpen_interior
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean]:
```suggestion

```

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 5]
```diff
@@ -569,33 +570,139 @@ theorem exists_isSubordinate_chartAt_source :
...
+  have hU_covers_univ : univ ⊆ ⋃ x, U x := by
+    intro x_pt _
+    simp only [mem_iUnion]
+    exact ⟨x_pt, mem_interior_iff_mem_nhds.mpr (h_nhds x_pt)⟩
+  -- Obtain a smooth partition of unity subordinate to this open cover.
+  obtain ⟨ρ, hρU⟩ : ∃ ρ : SmoothPartitionOfUnity M I M univ,
+      ρ.IsSubordinate U :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean]:
```suggestion
  obtain ⟨ρ, hρU⟩ : ∃ ρ : SmoothPartitionOfUnity M I M univ, ρ.IsSubordinate U :=
```

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 6]
```diff
@@ -569,33 +570,139 @@ theorem exists_isSubordinate_chartAt_source :
...
+    SmoothPartitionOfUnity.exists_isSubordinate
+      I isClosed_univ U U_op hU_covers_univ
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean]:
```suggestion
      I isClosed_univ U (fun x ↦ isOpen_interior) hU_covers_univ
```

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 7]
```diff
@@ -569,33 +570,139 @@ theorem exists_isSubordinate_chartAt_source :
...
+  -- Define the global section `s` by taking a weighted sum of the local sections.
+  let s x : V x := ∑ᶠ j, (ρ j x) • s_loc j x
+  -- Prove that `s`, when viewed as a map to the total space, is smooth.
+  have s_smooth : ContMDiff I (I.prod 𝓘(ℝ, F_fiber)) n
+      (fun x ↦ (TotalSpace.mk x (s x) : TotalSpace F_fiber V)) :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean]:
```suggestion
  have s_smooth : ContMDiff I (I.prod 𝓘(ℝ, F_fiber)) n (fun x ↦ TotalSpace.mk' F_fiber x (s x)) :=
```

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 8]
```diff
@@ -569,33 +570,139 @@ theorem exists_isSubordinate_chartAt_source :
...
+    ρ.contMDiff_totalSpace_weighted_sum_of_local_sections
+      I V s_loc U U_op hρU fun j ↦ (s_smooth j).mono interior_subset
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean]:
```suggestion
      I V s_loc U (fun x ↦ isOpen_interior) hρU fun j ↦ (s_smooth j).mono interior_subset
```

File: Mathlib/Geometry/Manifold/PartitionOfUnity.lean [hunk 9]
```diff
@@ -569,33 +570,139 @@ theorem exists_isSubordinate_chartAt_source :
...
+-/
+theorem exists_smooth_section_forall_mem_convex_of_local
+    {F_fiber : Type*} [NormedAddCommGroup F_fiber] [NormedSpace ℝ F_fiber]
+    (V : M → Type*) [∀ x, NormedAddCommGroup (V x)] [∀ x, Module ℝ (V x)]
+    [TopologicalSpace (TotalSpace F_fiber V)] [FiberBundle F_fiber V] [VectorBundle ℝ F_fiber V]
+    (t : ∀ x, Set (V x)) (ht_conv : ∀ x, Convex ℝ (t x))
+    (Hloc :
+      ∀ x₀ : M, ∃ U_x₀ ∈ 𝓝 x₀, ∃ (s_loc : (x : M) → V x),
+        (ContMDiffOn I (I.prod 𝓘(ℝ, F_fiber)) ∞
+          (fun x => (⟨x, s_loc x⟩ : TotalSpace F_fiber V)) U_x₀) ∧
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/PartitionOfUnity.lean]:
```suggestion
        (ContMDiffOn I (I.prod 𝓘(ℝ, F_fiber)) ∞ (fun x ↦ TotalSpace.mk' F_fiber x (s_loc x)) U_x₀) ∧
```

**Review by grunweg — COMMENTED** [review]
I just took a look at golfing your result using the lemmas about locally finite sums of sections: there's still one more missing lemma. At this point, I think we should simply land this PR (and I can golf this in a follow-up PR).

I'd like to apply one last tweak (which is using `TotalSpace.mk'` instead of `TotalSpace.mk` and a type ascription), then this is good to go. Thanks for your work creating this (golfing some code is easier than proving it the first time!) and your patience with the review process!
maintainer delegate

**Comment by grunweg** [comment]
#28046 is the follow-up PR golfing this; #28048 adds the missing preparatory lemma.

**Comment by ocfnash** [comment]
bors d=@grunweg

**Comment by grunweg** [comment]
Two weeks have passed, and I am excited to get this in. Let me apply my review suggestions myself, so this doesn't fail on the last step towards getting merged. Thanks a lot, @michaellee94, for making this PR in the first place (and sorry if this is stepping on your toes)!

**Comment by grunweg** [comment]
bors merge
